US06770463B2
Preparation of (3R)-3-(4-Chlorophenyl)-3-cyclopropylpropanoic acid
(3R)-3-(4-Chlorophenyl)-3-cyclopropylpropanenitrile (5.30 g, 25.8 mmol) is refluxed for 18 hours in a mixture of methanol (100 ml) and a 10% aqueous sodium hydroxide (100 ml). Methanol is removed in vacuo, the residual solution is cooled to 0° C. and acidified to pH 4 with concentrated hydrochloric acid. The aqueous layer is extracted with ethyl acetate (100 ml). The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound as a colorless liquid (5.79 g, 100%) which is characterized by 1HNMR, IR and mass spectral analysis and used without further purification.

reactant | (3R)-3-(4-Chlorophenyl)-3-cyclopropylpropanenitrile | 25.8 mmol, 5.30 g | ClC1=CC=C(C=C1)[C@H](CC#N)C1CC1 | C12H12ClN
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
product | (3R)-3-(4-Chlorophenyl)-3-cyclopropylpropanoic acid | 5.79 g, 100% | ClC1=CC=C(C=C1)[C@H](CC(=O)O)C1CC1 | C12H13ClO2
